US05254689
To a cooled (0° C.) mixture of NaBH4 (2.15 g, 0.057 mol) and isopropanol (70 mL) was added N-acetyl-4-piperidone (8.00 g, 0.057 mol). The mixture was allowed to warm to room temperature and stirred for 16 hours. CO2 was bubbled into the reaction mixture, EtOAc (120 mL) was added, and the precipitate was removed by filtration. The filtrate was concentrated to give 8.0 g (100%) of N-acetyl-4-hydroxypiperidine as a colorless oil.

reactant | NaBH4 | 0.057 mol, 2.15 g | [BH4-].[Na+]
reactant | N-acetyl-4-piperidone | 0.057 mol, 8.00 g | C(C)(=O)N1CCC(CC1)=O | C7H11NO2
solvent | isopropanol | 70 mL | C(C)(C)O | C3H8O
product | N-acetyl-4-hydroxypiperidine | 8.0 g, 100% | C(C)(=O)N1CCC(CC1)O | C7H13NO2
